US05700809
A solution of 4-bromophenol (17.3 g, 100 mmol) in dimethylformamide (40 ml) was treated with bromoacetaldehyde dimethyl acetal (16.9 g, 100 mmol) and potassium carbonate (13.8 g, 100 mmol) and heated at 150° C. for 16 h. The mixture was cooled, poured into water (500 ml) and extracted with diethyl ether (3×100 ml). The combined organic extracts were dried (MgSO4), concentrated, and filtered through a plug of silica gel eluting with 10% diethyl ether in hexane. The resulting oil (15 g) was added to a solution of polyphosphoric acid (~12 g) in toluene (100 mL) and heated at 80° C. for 16 h. The mixture was cooled and the toluene layer was decanted off and washed with saturated aqueous sodium hydrogen carbonate, dried (MgSO4), concentrated and the residue distilled to give 5-bromobenzofuran (6 g) as a colourless oil, bp. 98° C./1 mmHg; δH (DMSO-d6) 6.96 (1H, m, ArH), 7.45 (1H, m, ArH), 7.59 (1H, m, ArH), 7.91 (1H, m, ArH), and 8.05 (1H, m, ArH).

reactant | 4-bromophenol | 100 mmol, 17.3 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | bromoacetaldehyde dimethyl acetal | 100 mmol, 16.9 g | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-bromobenzofuran | 6 g | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
